US03963733
3-Bromopicolinamide, prepared as in Example 2(4 g.) is heated with 100 ml. of acetic anhydride on a steam bath. The mixture is then concentrated and worked up by diluting and triturating with water. The solid is dried and sublimed to give 3-bromopicolinonitrile.

reactant | 3-Bromopicolinamide | BrC=1C(=NC=CC1)C(=O)N | C6H5BrN2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-bromopicolinonitrile | BrC=1C(=NC=CC1)C#N | C6H3BrN2
